US07384934B2
(S)-10-[3-(2-Ethoxyethyl)-piperazin-1-yl]-2-methyl-4H-3-thia-4,9-diazabenzo[f]azulene
In a manner similar to that described in Example 311, combine 2-methyl-4,9-dihydro-3-thia-4,9-diazabenzo[f]azulene-10-thione (0.487 g, 1.98 mmol) and (S)-2-(2-ethoxyethyl)piperazine (0.313 g, 1.98 mmol) to obtain the title compound: mass spectrum (APCI): m/z=371.2 (M+1).

reactant | 2-methyl-4,9-dihydro-3-thia-4,9-diazabenzo[f]azulene-10-thione | 1.98 mmol, 0.487 g | CC1=CC=2C(NC3=C(NC2S1)C=CC=C3)=S | C12H10N2S2
reactant | (S)-2-(2-ethoxyethyl)piperazine | 1.98 mmol, 0.313 g | C(C)OCC[C@@H]1NCCNC1 | C8H18N2O
product | (S)-10-[3-(2-Ethoxyethyl)-piperazin-1-yl]-2-methyl-4H-3-thia-4,9-diazabenzo[f]azulene | C(C)OCC[C@H]1CN(CCN1)C1=NC2=C(NC=3SC(=CC13)C)C=CC=C2 | C20H26N4OS
